US09334286B2
Preparation 142: 1-Methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-5-carbaldehyde
A mixture of 4-bromo-1-methyl-1H-pyrazole-5-carbaldehyde (150 mg, 0.794 mmol), KOAc (234 mg, 2.38 mmol), Pd(dppf)Cl2•DCM (33.6 mg, 0.040 mmol) and bis(pinacolato)diboron (222 mg, 0.873 mmol) in dioxane (4 mL) was stirred at 100° C. under microwave irradiation for 1 hour. The reaction mixture was diluted with EtOAc. The mixture was filtered and purified using Biotage silica gel column chromatography eluting with 20% EtOAc/cyclohexanes to give the title compound (96 mg, 51%).

reactant | 4-bromo-1-methyl-1H-pyrazole-5-carbaldehyde | 0.794 mmol, 150 mg | BrC=1C=NN(C1C=O)C | C5H5BrN2O
reactant | KOAc | 2.38 mmol, 234 mg | CC(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 0.873 mmol, 222 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2•DCM | 0.040 mmol, 33.6 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 1-Methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-5-carbaldehyde | 96 mg, 51% | CN1N=CC(=C1C=O)B1OC(C(O1)(C)C)(C)C | C11H17BN2O3
